US20010012857A1
N-[3-(4-Fluorophenyl)-3-oxopropyl]pipecolic acid methyl ester was prepared in 92% yield by alkylation of methyl pipecolinate with 3-chloro-4′-fluoropropiophenone (Aldrich) as described in Example 20A (Step 1).

reactant | methyl pipecolinate | N1C(C(=O)OC)CCCC1 | C7H13NO2
reactant | 3-chloro-4′-fluoropropiophenone | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
product | N-[3-(4-Fluorophenyl)-3-oxopropyl]pipecolic acid methyl ester | 92% yield | COC(C1N(CCCC1)CCC(=O)C1=CC=C(C=C1)F)=O | C16H20FNO3
